US08067408B2
N-[(3-Bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
To a solution of 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (500 mg, 1.107 mmol) in DCM (11 mL) was added [(3-bromo-4-fluorophenyl)methyl]amine (266 mg, 1.107 mmol), HBTU (504 mg, 1.329 mmol), and TEA (0.386 mL, 2.77 mmol). This mixture was stirred at room temperature for 18 h before being purified by CombiFlash chromatography to afford 0.6767 g (96%) of the title compound. LC-MS m/z 637 (M+H)+.

reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 1.107 mmol, 500 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | [(3-bromo-4-fluorophenyl)methyl]amine | 1.107 mmol, 266 mg | BrC=1C=C(C=CC1F)CN | C7H7BrFN
reactant | HBTU | 1.329 mmol, 504 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 11 mL | C(Cl)Cl | CH2Cl2
product | N-[(3-Bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.6767 g, 96% | BrC=1C=C(C=CC1F)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H34BrFN6O3
